US04000296
A solution of N-methanesulphonyliminodithiocarbonic acid dimethyl ester (10.0 g.) and 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole (8.5 g.) in ethanol (100 ml.) was stirred at room temperature for 3 hours. Excess ethanolic methylamine was added and stirring continued for 3 hours at room temperature. Concentration and trituration with ice-water afforded N-methanesulphonyl-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine (12.7 g.), m.p. 133°-134° (from water)

reactant | N-methanesulphonyliminodithiocarbonic acid dimethyl ester | 10.0 g | CS(C(OC)=S)=NS(=O)(=O)C | C4H9NO3S3
reactant | 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole | 8.5 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | methylamine | CN | CH5N
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | N-methanesulphonyl-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine | 12.7 g | CS(=O)(=O)NC(=NCCSCC1=C(N=CN1)C)NC | C10H19N5O2S2
